US06699866B2
A solution of 2-chloro-1-[1-(4-chloro-phenyl)-cyclohexyl]-ethanone (144.8 mg, 0.53 mmol) and sodium iodide (80 mg, 0.53 mmol) in acetone (4 mL) was stirred at room temperature for 10 min. Next, [2-(1-methyl-pyrrolidin-yl)ethyl] thiourea (100 mg, 0.71 mmol) was added. The resulting mixture was heated at 50° C. overnight. After the mixture was allowed to cool to room temperature, it was diluted with 5% sodium hydrogen carbonate in water and then extracted with ethyl acetate (3×20 mL). The extracts were combined, and dried over anhydrous sodium sulfate, filtered and concentrated to give an oil. The crude was purified by column chromatography on silica gel using dichloromethane/2 N ammonia in ethanol (95:5) to give {4-[1-(4-chloro-phenyl)-cyclohexyl]-thiazol-2-yl}-[2-(1-methyl-pyrrolidin-2-yl)-ethyl] amine, 95, as an oil (150 mg, 70%). 1H (CDCl3, 300 MHz) δ 7.30-7.21 (m, 4H), 6.02 (s, 1H), 5.67 (s, 1H), 3.67-1.52 (m, 24H) ppm; 13C (C6D6, 75 MHz) δ 22.9, 23.5, 26.9, 29.4, 30.8, 36.7, 40.8, 43.2, 46.4, 57.4, 64.9, 101.2, 128.7, 129.4, 132.0, 146.8, 160.1, 169.5 ppm.

reactant | 2-chloro-1-[1-(4-chloro-phenyl)-cyclohexyl]-ethanone | 0.53 mmol, 144.8 mg | ClCC(=O)C1(CCCCC1)C1=CC=C(C=C1)Cl | C14H16Cl2O
reactant | sodium iodide | 0.53 mmol, 80 mg | [I-].[Na+]
reactant | [2-(1-methyl-pyrrolidin-yl)ethyl] thiourea | 0.71 mmol, 100 mg | CN1C(CCC1)CCNC(=S)N | C8H17N3S
solvent | acetone | 4 mL | CC(=O)C | C3H6O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | {4-[1-(4-chloro-phenyl)-cyclohexyl]-thiazol-2-yl}-[2-(1-methyl-pyrrolidin-2-yl)-ethyl] amine | ClC1=CC=C(C=C1)C1(CCCCC1)C=1N=C(SC1)NCCC1N(CCC1)C | C22H30ClN3S
